US08669234B2
2-Aza-bicyclo[2.2.1]heptane-2,3-dicarboxylic acid 2-tert-butyl ester 3-[2-(7-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-9,10-dihydro-phenanthren-2-yl)-2-oxo-ethyl]ester:
Pd(Ph3)4 (15 mg, 0.015 mmol) and PdCl2(Ph3)2 (10 mg, 0.015 mmol) were added to a mixture of (1-{2-[5-(7-bromo-9,10-dihydro-phenanthren-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (200 mg, 0.37 mmol) and tributyl(1-ethoxyvinyl)tin (0.15 mL, 0.44 mL) in 5 mL dioxane. The reaction mixture was flushed with nitrogen, heated at 80° C. for 16 hours, then cooled to ambient temperature. Water (1.5 mL) and NBS (78 mg, 0.44 mmol) was added and the mixture was stirred at room temperature for 40 minutes, then diluted with ethyl acetate (100 mL). Washed with water and brine, dried over Na2SO4, filtered and concentrated in vacuo. The obtained residue was dissolved in acetonitrile (3 mL). To it was added a solution of 2-aza-bicyclo[2.2.1]heptane-2,3-dicarboxylic acid 2-tert-butyl ester (167 mg, 0.69 mmol) and DIPEA (0.11 mL, 0.67 mmol) in 2 mL acetonitrile. The mixture was stirred at room temperature for 16 hours, then diluted with ethyl acetate (100 mL). The organic layer was washed with NaHCO3 solution and water, dried over Na2SO4, filtered and concentrated in vacuo. The obtained residue was purified by flash chromatography to provide the desired product 2-Aza-bicyclo[2.2.1]heptane-2,3-dicarboxylic acid 2-tert-butyl ester 3-[2-(7-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl]-9,10-dihydro-phenanthren-2-yl)-2-oxo-ethyl]ester as a brown oil (130 mg, 47% over two steps). m/z 754.3 (M+H)+.

reactant | (1-{2-[5-(7-bromo-9,10-dihydro-phenanthren-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.37 mmol, 200 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=2CCC3=CC(=CC=C3C2C=C1)Br)=O | C28H31BrN4O3
reactant | tributyl(1-ethoxyvinyl)tin | 0.15 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | NBS | 0.44 mmol, 78 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 2-aza-bicyclo[2.2.1]heptane-2,3-dicarboxylic acid 2-tert-butyl ester | 0.69 mmol, 167 mg | C(C)(C)(C)OC(=O)N1C2CCC(C1C(=O)O)C2 | C12H19NO4
reactant | DIPEA | 0.67 mmol, 0.11 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | Water | 1.5 mL | O | H2O
product | 2-Aza-bicyclo[2.2.1]heptane-2,3-dicarboxylic acid 2-tert-butyl ester 3-[2-(7-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl]-9,10-dihydro-phenanthren-2-yl)-2-oxo-ethyl]ester | COC(=O)NC(C(=O)N1C(CCC1)C1=NC=C(N1)C1=CC=C2C=3C=CC(=CC3CCC2=C1)C(COC(=O)C1N(C2CCC1C2)C(=O)OC(C)(C)C)=O)C(C)C | C42H51N5O8
